US07517873B2
A mixture of 0.2224 g (0.00068 mole) of 1-{[(5-amino-2-chloro-pyrimidin-4-yl)-cyclopentyl-amino]-methyl}-cyclopropanecarboxylic acid methyl ester (V-53), 12 mL of ethanol and 0.3 mL of acetic acid was heated at reflux for 18 hours, and then concentrated under reduced pressure. The residue was dissolved in 100 mL of ethyl acetate and washed successively twice with 15 mL of aqueous sodium bicarbonate, twice with 15 mL of brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 0.195 g of 2-chloro-9-cyclopentyl-8,9-dihydro-spiro[5H-pyrimido[4,5-b][1,4]diazepine-7,1′-cyclopropan]-6(7H)-one (VI-53), as a light yellow solid.

reactant | 1-{[(5-amino-2-chloro-pyrimidin-4-yl)-cyclopentyl-amino]-methyl}-cyclopropanecarboxylic acid methyl ester | 0.00068 mole, 0.2224 g | COC(=O)C1(CC1)CN(C1CCCC1)C1=NC(=NC=C1N)Cl | C15H21ClN4O2
reactant | ethanol | 12 mL | C(C)O | C2H6O
solvent | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
product | 2-chloro-9-cyclopentyl-8,9-dihydro-spiro[5H-pyrimido[4,5-b][1,4]diazepine-7,1′-cyclopropan]-6(7H)-one | 0.195 g | ClC=1N=CC2=C(N(CC3(CC3)C(N2)=O)C2CCCC2)N1 | C14H17ClN4O
